US05736534
6,7-Dimethoxy-4-(6-trimethylsilanylethynyl-2,3-dihydro-indol-1-yl)-quinazoline
Utilizing a procedure analogous to that described in Example 47, this product was prepared in 93% yield from 6-trimethylsilanylethynyl-indoline (1.1 eq.), and 4-chloro-6,7-dimethoxy-quinazoline (1.0 eq) in N-methyl-pyrrolidinone. (LC-MS: 404 (MH+); anal. RP18-HPLC RT: 6.49 min.).

reactant | 6-trimethylsilanylethynyl-indoline | 1.1 eq. | C[Si](C)(C)C#CC1=CC=C2CCNC2=C1 | C13H17NSi
reactant | 4-chloro-6,7-dimethoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | N-methyl-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 6,7-Dimethoxy-4-(6-trimethylsilanylethynyl-2,3-dihydro-indol-1-yl)-quinazoline | 93% yield | COC=1C=C2C(=NC=NC2=CC1OC)N1CCC2=CC=C(C=C12)C#C[Si](C)(C)C | C23H25N3O2Si
